US08039450B2
A solution of 2-bromo-4-fluoro-5-methoxybenzaldehyde (1.19 g, 8.20 mmol), 48% HBr (57 mL) and glacier acetic acid (57 mL) were refluxed at 130° C. for 5 hours. The glacier acetic acid was removed under reduced pressure. The solution was neutralized using sodium carbonate. Water was added and the mixture was extracted using ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate, and filtered. The solvent was removed under reduced pressure. The residue was purified by silica gel column using Combiflash to give 2-bromo-4-fluoro-5-hydroxybenzaldehyde (1.15 g, 64% yield).

reactant | 2-bromo-4-fluoro-5-methoxybenzaldehyde | 8.20 mmol, 1.19 g | BrC1=C(C=O)C=C(C(=C1)F)OC | C8H6BrFO2
reactant | HBr | 57 mL | Br | BrH
solvent | acetic acid | 57 mL | C(C)(=O)O | C2H4O2
product | 2-bromo-4-fluoro-5-hydroxybenzaldehyde | 1.15 g, 64% yield | BrC1=C(C=O)C=C(C(=C1)F)O | C7H4BrFO2
